US07189851B2
Ethyl (9aS)-4-{4-[(2,3-dihydro-1H-indol-1-ylamino)carbonyl]phenyl}-2-(4-fluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate
A solution of 4-[(9aS)-3-(ethoxycarbonyl)-2-(4-fluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4yl]benzoic acid (0.200 g, 0.42 mmol, 1 equiv) in CH2Cl2 (1.0 mL) was treated with the 1-indolinamine (ref. Wijngaarden, I. et al., J Med Chem, 1993, 36, 3693–99) (0.113 g, 0.84 mmol, 2 equiv), EDCI (0.113 g, 0.59 mmol, 1.4 equiv), and HOBt (0.080 g, 0.59 mmol, 1.4 equiv). After 12 h at ambient temperature, the diluted with CH2Cl2 (1.0 mL) and treated with saturated aqueous NaHCO3. The organic potion was the washed with 1N HCl (1 mL) followed by brine (1 mL). Concentration gave a brown oil the was chromatographed radially (SiO2, 2 mm plate, 50% hexanes-EtOAc) to provide the title compound as a white solid (0.206 g, 83%): 1H NMR (CDCl3, 400 MHz) δ 7.86 (d, J=8.2 Hz, 2H), 7.68 (s, 1H), 7.45 (d, J=8.0 Hz, 2H ), 7.25–7.21 (m, 2H), 7.15–7.10 (m, 2H), 6.94 (t, J=8.6 Hz, 2H), 6.86 (t, J=7.4 Hz, 1H), 6.71 (d, J=7.7 Hz, 1H), 4.74 (dd, J=10.4, 6.2 Hz, 1H), 4.35 (d, J=14.3 Hz, 1H), 4.29 (d, J=14.3 Hz, 1H), 3.90 (q, J=6.8 Hz, 2H), 3.69–3.61 (m, 3H), 3.36–3.31 (m, 1H), 3.09–3.05 (m, 2H), 2.53–2.47 (m, 1H), 2.35–2.27 (m, 2H), 1.45–1.34 (m, 1H), 0.84 (t, J=7.1 Hz, 3H).

reactant | 4-[(9aS)-3-(ethoxycarbonyl)-2-(4-fluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4yl]benzoic acid | 0.42 mmol, 0.200 g, 1 equiv | C(C)OC(=O)C1=C(C2=C([C@@H]3CCCN3C2=O)N=C1CC1=CC=C(C=C1)F)C1=CC=C(C(=O)O)C=C1 | C27H23FN2O5
reactant | 1-indolinamine | 0.84 mmol, 0.113 g, 2 equiv | N1(CCC2=CC=CC=C12)N | C8H10N2
reactant | EDCI | 0.59 mmol, 0.113 g, 1.4 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.59 mmol, 0.080 g, 1.4 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | Ethyl (9aS)-4-{4-[(2,3-dihydro-1H-indol-1-ylamino)carbonyl]phenyl}-2-(4-fluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate | 0.206 g, 83% | N1(CCC2=CC=CC=C12)NC(=O)C1=CC=C(C=C1)C1=C(C(=NC2=C1C(N1CCC[C@@H]21)=O)CC2=CC=C(C=C2)F)C(=O)OCC | C35H31FN4O4
